US06960581B2
Synthesis of 4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-oxopentanoic acid ethyl ester
Stannic chloride (5 mL of 1 M solution in methylene chloride, 5 mmol) was added to a stirred solution of 2-(5-fluoro-2-methoxyphenyl)propan-2-ol (2.85 g, 15.5 mmol) and 2-trimethylsilanyloxy-acrylic acid ethyl ester (23.3 mmol, 4.37 g) in anhydrous methylene chloride (45 mL) cooled to −78° C. After 7 hours with the temperature maintained in the range of −78° C. to −50° C., TLC in hexanes-EtOAc (9:1) indicated that a significant amount of starting material remained. More stannic chloride (5 mL of 1 M solution in methylene chloride, 5 mmol) was added with the temperature around −50° C. After 2 hours, all the starting material had been consumed. The reaction mixture was treated with water (100 mL), stirred for 15 minutes and diluted with methylene chloride. The methylene chloride layer was separated, washed with two 50 mL portions of the water, dried over anhydrous sodium sulfate, and concentrated in vacuo to give a light brown oil. The crude product was purified by flash column chromatography over silica gel eluting with 10% EtOAc in hexanes and a fraction corresponding to Rf=0.28 was collected to give the title compound (35%) as a light brown oil.

reactant | 2-(5-fluoro-2-methoxyphenyl)propan-2-ol | 15.5 mmol, 2.85 g | FC=1C=CC(=C(C1)C(C)(C)O)OC | C10H13FO2
reactant | 2-trimethylsilanyloxy-acrylic acid ethyl ester | 23.3 mmol, 4.37 g | C(C)OC(C(=C)O[Si](C)(C)C)=O | C8H16O3Si
solvent | methylene chloride | 45 mL | C(Cl)Cl | CH2Cl2
product | 4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-oxopentanoic acid ethyl ester | 35% | C(C)OC(C(CC(C)(C)C1=C(C=CC(=C1)F)OC)=O)=O | C15H19FO4
